US08669361B2
1-Bromo-2-fluoroethane (5 g, 38.5 mmol) was added to a stirred mixture of 4-nitro-1H-pyrazole (4.35 g, 38.5 mmol) and K2CO3 (13.3 g, 96.3 mmol) in MeCN (120 mL). The mixture was stirred at room temperature for 30 min and then heated to 50° C. for 18 hr. The mixture was cooled and the solid filtered and washed with MeCN. The filtrate was concentrated under reduced pressure and the crude residue purified via silica gel chromatography (0-100% EtOAc/isohexane) to give 1-(2-fluoroethyl)-4-nitro-1H-pyrazole as a colourless solid (5.13 g, 84%). 1H NMR (400 MHz, CDCl3) δ 8.24 (s, 1H), 8.11 (s, 1H), 4.89-4.72 (m, 2H), 4.57-4.40 (m, 2H)

reactant | 1-Bromo-2-fluoroethane | 38.5 mmol, 5 g | BrCCF | C2H4BrF
reactant | 4-nitro-1H-pyrazole | 38.5 mmol, 4.35 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | K2CO3 | 96.3 mmol, 13.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 120 mL | CC#N | C2H3N
product | 1-(2-fluoroethyl)-4-nitro-1H-pyrazole | 5.13 g, 84% | FCCN1N=CC(=C1)[N+](=O)[O-] | C5H6FN3O2
